US05346917
To a mixture of 3-chlorothiophenol (20 g, 0.138 mol), cupric acetate (1.75 g) and DMF (199 mL) under N2 was added in portions K2CO3 (23 g). The mixture was heated to 150° C. and then 2,5-dibromobenzoic acid (43.5 g) was added. The mixture was heated overnight, poured into water (600 mL), filtered, the filtrate was treated with charcoal and filtered again. The filtrate was acidified with conc. HCl, extracted with CHCl3, the organic layer was washed with brine and dried over Na2SO4. The solvent was removed in vacuo to afford 28.9 g of 2-[(3-chlorophenyl)thio]-5-bromobenzoic acid.

reactant | 3-chlorothiophenol | 0.138 mol, 20 g | ClC=1C=C(C=CC1)S | C6H5ClS
reactant | DMF | 199 mL | CN(C)C=O | C3H7NO
reactant | K2CO3 | 23 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,5-dibromobenzoic acid | 43.5 g | BrC1=C(C(=O)O)C=C(C=C1)Br | C7H4Br2O2
solvent | water | 600 mL | O | H2O
product | 2-[(3-chlorophenyl)thio]-5-bromobenzoic acid | 28.9 g | ClC=1C=C(C=CC1)SC1=C(C(=O)O)C=C(C=C1)Br | C13H8BrClO2S
